data/mechanism_extracts/GreenChem/10.1039_D2GC00960A_sup_1.json
{"doi": "10.1039_D2GC00960A_sup_1", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical trifluoromethylation/cyclization of N-allyl sulfonamides with CF3SO2Na proceeding via a CF3 radical addition pathway", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF3SO2- (Langlois reagent) generates CF3 radical (via loss of SO2) that adds to the allyl alkene of the N-allyl sulfonamide", "key_intermediates": [{"name": "CF3 radical", "smiles": "[CH](F)(F)F", "role": "reactive"}, {"name": "alkyl C-radical from CF3 addition to allyl group", "smiles": null, "role": "transient"}, {"name": "BHT-CF3 adduct (1,3-di-tert-butyl-5-methyl-2-(trifluoromethoxy)benzene-type trapped species, 6)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3SO2 radical, which extrudes SO2 to give CF3 radical; CF3 radical adds to the terminal alkene of the N-allyl sulfonamide, generating a carbon radical that undergoes further cyclization/functionalization to product.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C", "purpose": "radical_trap", "observation": "Reaction suppressed (no desired product); BHT-CF3 adduct 6 detected by GC-MS, supporting CF3 radical intermediate"}, {"name": "Crossover experiment with two distinct N-allyl sulfonamides (methyl ester thiophene vs chlorothiophene 4-oxopentanamide)", "smiles": null, "purpose": "other", "observation": "Only homo-products 3i (68%) and 3z4 (62%) formed; no crossover products, indicating intramolecular cyclization rather than intermolecular radical exchange"}], "evidence_types_used": ["intermediate_trap_BHT", "crossover"], "evidence_strength": "medium", "notes": "BHT trap confirms CF3 radical involvement; crossover experiment confirms intramolecular nature of the cyclization step (the radical addition/cyclization sequence occurs within a single substrate without intermolecular scrambling)."}
